US05231102
d) 4-(3-(Tertiary-butyloxycarbonylamino)-prop-2-ynyl)phenylacetic acid methyl ester
4-(3-Azidoprop-2-ynyl)phenylacetic acid methyl ester (2.6 g, 0.0113 mol) was dissolved in methanol (60 ml) in the presence of triethylamine (7.86 ml, 5 molar equivalents) and propane 1,3-dithiol (5.67 ml, 5 molar equivalents). After stirring at room temperature for 14 h the reaction mixture was concentrated under vacuum and the residue was purified by silica gel chromatography, using initially neat dichloromethane then finally 5% methanol in dichloromethane. After evaporation of the solvents the residue obtained was dissolved in dichloromethane (100 ml) and triethylamine (3.13 ml, 2 molar equivalents) and ditertiary-butyldicarbonate (3.0 g, 1.2 molar equivalents) were added. After stirring at room temperature for 14 h the solvent was removed in vacuo and the oil obtained was purified by chromatography on silica gel using dichloromethane as eluent to give the required product as a viscous oil (1.95 g). δ (360 MHz, CDCl3) 1.47 (9H, s, (CH3)3C), 3.61 (2H, s, CH2CO2CH3), 3.69 (3H, s, CH2CO2CH3), 4.13 (2H, br, d, J=4.92 Hz, CH2NH), 4.76 (1H, br, NH), 7.21 (2H, d, J=8.2 Hz, ArH), 7.36 (2H, d, J=8.2 Hz, ArH).

reactant | 4-(3-Azidoprop-2-ynyl)phenylacetic acid methyl ester | 0.0113 mol, 2.6 g | COC(CC1=CC=C(C=C1)CC#CN=[N+]=[N-])=O | C12H11N3O2
reactant | ditertiary-butyldicarbonate | 1.2 molar, 3.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 60 ml | CO | CH4O
solvent | triethylamine | 5 molar, 7.86 ml | C(C)N(CC)CC | C6H15N
solvent | propane 1,3-dithiol | 5 molar, 5.67 ml | C(CCS)S | C3H8S2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2 molar, 3.13 ml | C(C)N(CC)CC | C6H15N
product | 4-(3-(Tertiary-butyloxycarbonylamino)-prop-2-ynyl)phenylacetic acid methyl ester | 1.95 g | COC(CC1=CC=C(C=C1)CC#CNC(=O)OC(C)(C)C)=O | C17H21NO4
